US07381746B2
688 mg of potassium nitrite and 428 mg of 18-crown 6-ether was added to 701 mg of (1R,2R,3R,5R,6R)-2-azido-6-fluoro-3-trifluoromethanesulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 6.9 mL of N,N-dimethylformamide, and the mixture was stirred for 1.5 days at room temperature and further stirred for 3.5 days at 45° C., under a nitrogen atmosphere. Water was added thereto, and the mixture was extracted twice with ethyl acetate. The organic layers were combined, washed with a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel: Wako gel C200, eluent: hexane-ethyl acetate=5:1), thereby yielding 388 mg of (1R,2R,3S,5R,6R)-2-azido-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2,6-diethyl ester.

reactant | potassium nitrite | 688 mg | N(=O)[O-].[K+]
reactant | 18-crown 6-ether | 428 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (1R,2R,3R,5R,6R)-2-azido-6-fluoro-3-trifluoromethanesulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 701 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1OS(=O)(=O)C(F)(F)F)(C(=O)OCC)F)N=[N+]=[N-] | C13H15F4N3O7S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 6.9 mL | CN(C=O)C | C3H7NO
product | (1R,2R,3S,5R,6R)-2-azido-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2,6-diethyl ester | 388 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@@H]1O)(C(=O)OCC)F)N=[N+]=[N-] | C12H16FN3O5
